US06740650B2
3-Benzyloxy-1-bromo-4-methoxybenzene, 36, (1 g, 3.4 mmol) was dissolved in 50 mL acetic acid in a 100 mL round-bottomed flask and cooled to 0° C. using an ice bath. 2.5 mL nitric acid (70%) in 6 mL acetic acid was added dropwise. The reaction mixture was allowed to slowly rise to room temperature. After 3 h no starting material was detected by thin layer chromatography. Evaporation of acetic acid gave the crude product, which was filtered through a short silica gel column using a 80:20 mixture of hexanes:ethyl acetate to give 3-benzyloxy-4-methoxy-6-nitrobromobenzene (1.15 g) in quantitative yield; mp 134-135° C.; IR (KBr) 2946, 1577, 1518, 1468, 1382, 1329, 1266, 1211 cm−1; UV (MeOH) 246, 212 nm (log ε=3.91, 4.13); 1H NMR (CDCl3) δ3.93 (3H, s), 5.19 (2H. s), 7.17 (1H, s), 7.38-7.45 (5H, m), 7.57 (1H, s); 13C NMR δ56.99, 71.98, 107.69, 109.74, 118.73, 127.98, 129.11, 129.36, 135.50, 142.42, 149.18, 152.44; HRMS (EI) calcd for C14H12NO4Br m/z: 336.9950; found: 336.9941.

reactant | 3-Benzyloxy-1-bromo-4-methoxybenzene | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)Br | C14H13BrO2
reactant | nitric acid | 2.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 3-benzyloxy-4-methoxy-6-nitrobromobenzene | 1.15 g, quantitative yield | C(C1=CC=CC=C1)OC=1C=C(C(=CC1OC)[N+](=O)[O-])Br | C14H12BrNO4
